US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-amino-1-benzofuran-2-carboxamide
15.0 ml (30 mmol) of a 2 M tin(II) chloride solution in DMF are added to N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-6-nitro-1-benzofuran-2-carboxamide (1550 mg, 4.92 mmol). The mixture is stirred overnight. The solvent is removed under reduced pressure using a rotary evaporator. The crude product is taken up in methanol and, together with acidic ion exchange resin (Dowex WX2-200), shaken for about 1 h. The loaded ion exchanger is washed with methanol, then with water, DMF, again with methanol, with dichloromethane and finally again with methanol. The product is eluted with methanol/triethylamine 95:5. The solvent is removed under reduced pressure using a rotary evaporator. The crude product is purified on silica gel 60 (mobile phase: dichloromethane/triethylamine 100:1→dichloro-methane/methanol/triethylamine 100:1:1→dichloromethane/methanol/triethylamine 90:10:1). 643 mg (46% of theory) of the title compound are isolated.

reactant | tin(II) chloride | 2 M | [Sn](Cl)Cl
reactant | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-6-nitro-1-benzofuran-2-carboxamide | 4.92 mmol, 1550 mg | N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC1=C(C2)C=CC(=C1)[N+](=O)[O-] | C16H17N3O4
solvent | DMF | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-amino-1-benzofuran-2-carboxamide | N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC1=C(C2)C=CC(=C1)N | C16H19N3O2
